US04780125
5.0 g of 2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonamide and 1.7 g of methyl isocyanate are suspended in 25 ml of methylene chloride and 3.0 g of triethylamine are added dropwise for 10 minutes, whereupon a clear solution forms. The solution is concentrated, the residue is dissolved in a 5% sodium carbonate solution, and insoluble constituents are removed by filtration. The clear solution is acidified with 10% hydrochloric acid, to give 5.9 g of N-[2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl]-N'-methylurea is a colorless precipitate with a melting point of 190°-192° C.

reactant | 2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonamide | 5.0 g | FC(C=CC1=C(C=CC=C1)S(=O)(=O)N)(F)F | C9H8F3NO2S
reactant | methyl isocyanate | 1.7 g | CN=C=O | C2H3NO
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl]-N'-methylurea | 5.9 g | FC(C=CC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC)(F)F | C11H11F3N2O3S
